US07714009B2
N2-Mesityl-5-methyl-1,3-benzothiazole-2,7-diamine
A mixture of N-mesityl-5-methyl-7-nitro-1,3-benzothiazol-2-amine (45 mg, 0.137 mmol) and tin(II) chloride dihydrate (124 mg, 0.550 mmol) in DMF (2 ml) was heated at 80° C. for 1 h. The mixture was poured into ice and the pH was made slightly basic (pH 7-8) by addition of 1N NaOH solution. The aqueous solution was extracted with AcOEt. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by chromatography eluting with 20% AcOEt in n-hexane to afford 10 mg of the title compound.

reactant | N-mesityl-5-methyl-7-nitro-1,3-benzothiazol-2-amine | 0.137 mmol, 45 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2[N+](=O)[O-])C)C | C17H17N3O2S
reactant | tin(II) chloride dihydrate | 0.550 mmol, 124 mg | O.O.[Sn](Cl)Cl
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N2-Mesityl-5-methyl-1,3-benzothiazole-2,7-diamine | 10 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2N)C)C | C17H19N3S
